US07094779B2
To a solution of 4-benzyl-2-(naphthalen-2-ylmethyl)piperazine-1-carboxylic acid tert-butyl ester (0.75 g) in dichloromethane (3 mL) was added dropwise trifluoroacetic acid (3 mL). After 75 min at room temperature the mixture was poured onto ice and made basic by the addition of ammonium hydroxide (25% solution). The layers were separated and the aqueous layer extracted with dichloromethane. The combined organic layers were dried over magnesium sulphate, filtered, and concentrated in vacuo to afford 1-benzyl-3-(naphthalen-2-ylmethyl)piperazine as an oil; 053 g (93%) MH+ 317, Rf 0.61 (CH2Cl2/MeOH/NH4OH 93/7/0.5), which was used as such.

reactant | 4-benzyl-2-(naphthalen-2-ylmethyl)piperazine-1-carboxylic acid tert-butyl ester | 0.75 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)CC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C27H32N2O2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-benzyl-3-(naphthalen-2-ylmethyl)piperazine | C(C1=CC=CC=C1)N1CC(NCC1)CC1=CC2=CC=CC=C2C=C1 | C22H24N2
